US03953476
Step A: Preparation of 2,4-dichloro-5-carboxybenzenesulfinic acid
This compound is prepared following substantially the same procedure described in Example 1, Step A, using the following substances:2,4-dichloro-4-chlorosulfonylbenzoic acid 145 g. (0.5 mole)10N sodium hydroxide 145 ml.sodium sulfite 189 g. (1.5 mole)water 0.5 liter

reactant | 2,4-dichloro-4-chlorosulfonylbenzoic acid | 145 g | ClC1=C(C(=O)O)C=CC(C1)(S(=O)(=O)Cl)Cl | C7H5Cl3O4S
reactant | sodium hydroxide | 0.5 mole, 10N, 145 ml | [OH-].[Na+]
reactant | sodium sulfite | 189 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 mole, 0.5 liter | O | H2O
product | 2,4-dichloro-5-carboxybenzenesulfinic acid | ClC1=C(C=C(C(=C1)Cl)C(=O)O)S(=O)O | C7H4Cl2O4S
